datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[O:10][H].[H][O+:21]=[C:20]([O][H])[S][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21][H])([O][H])[S][H] 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C8=CC=CC=C8)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S][H])[O]C7=CC=CC=C7 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][S:10]C(C)C(C)C(C)[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)C(C)[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"[O:10]([K])C(CCC)C(C)C(O)C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(O)C(C)C(CCC)[O+:10]1([K]) 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CC1C(O[C:20](N1[H])([O-:10])[O:21]C)CC>>CC1C(O[C:20](=[O:10])N1[H])CC.[O-:21]C 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S]CC)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S]CC)[O][H] 21=20;20,10=10"
"[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"[O:10]([K])C(CC)C([H])C(O)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(O)C([H])C(CC)[O+:10]1([K]) 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(CC)C(C)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(CC)C(C)[O]2.[H][O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CCCCCC)[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CCCCCC)[H] 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[O]2.[H][S:10][H] 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C(CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C)C(CC)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C([H])[O][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)=C([H])C(C)C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C(C)/C([H])=C(C)\[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][S+:10](C(C)C(C)C([H])[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][O+:10]([Na])[C:21]([O-:20])(OC)OCC>>[O:20]=[C:21](OC)OCC.[H][O:10][Na] 20=21;21,10=10"
"[O-:21][C:20]1(OC)C([H])C([H])=C([H])C(CCC)[O:10]1>>[O-:10]C(CCC)/C([H])=C([H])\C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"CC[O:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C)CC)[H].[O-:21]C>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]C)CC)[H] 21=20;20,10=10"
"[O-:21][C:20]1(C)[O:10]C([H])C([H])N1[H]>>[O-:10]C([H])C([H])N([C:20](C)=[O:21])[H] 21=20;20,10=10"
"[H][O+:10](C([H])C([H])[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C7=CC=CC=C7)C(CC)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C([H])[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C(C)[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[NH]2.CC[NH:10][H] 21=20;20,10=10"
